US07615642B2
N-[(3R)-1-({2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)pyrrolidin-3-yl]acetamide
Following the same procedure in Example 1, step A, using 2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride (300 mg, 0.74 mmol), N,N-diisopropylethylamine (0.5 mL, 3 mmol) and (3R)-(+)-3-acetamidopyrrolidine (142 mg, 1.1 mmol) in (1 mL) methylene chloride. The crude product was purified by LCMS using high pH column 40-70% acetonitrile gradient to give 15 mg (4% yield) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.51-1.65 (m, 3 H), 1.69 (s, 9 H), 1.71-1.77 (m, 4 H), 1.78 (s, 3 H), 1.93-2.12 (m, 3 H), 2.21-2.33 (m, 1 H), 3.15 (dd, J=10.35, 4.69 Hz, 1 H), 3.21-3.28 (m, 1 H), 3.37-3.49 (m, 2 H), 4.00-4.11 (m, 1 H), 4.58 (d, J=7.42 Hz, 2 H), 7.91 (d, J=8.59 Hz, 1 H), 8.09 (d, J=8.79 Hz, 1 H), 8.12 (s, 1 H); MS (ESI) (M+H)+=496.6; Anal. Calc. for C24H34F2N4O3S+4.2 TFA+2.9H2O+2.4 CH3CN: C, 39.67; H, 4.58; N, 7.16. Found: C, 39.69; H, 4.61; N, 7.96.

reactant | 2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride | 0.74 mmol, 300 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)Cl | C18H23ClF2N2O2S
reactant | N,N-diisopropylethylamine | 3 mmol, 0.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (3R)-(+)-3-acetamidopyrrolidine | 1.1 mmol, 142 mg | C(C)(=O)N[C@H]1CNCC1 | C6H12N2O
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | N-[(3R)-1-({2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)pyrrolidin-3-yl]acetamide | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)N2C[C@@H](CC2)NC(C)=O | C24H34F2N4O3S
